US07265121B2
1-(Boc-D-valinyl)-4-(1-methylpiperidin-4-yl)piperazine
To a stirring solution of Boc-D-valine (5.0 g, 23 mmol) in dichloromethane (230 mL) is added HOBt (3.42 g, 25.3 mmol), followed by EDCI (4.85 g, 25.3 mmol), followed by 4-(1-methylpiperidin-4-yl)piperazine (4.2 g, 23 mmol). After stirring overnight, the solution is washed with saturated aqueous NaHCO3, followed by brine, and then concentrated in vacuo. The residue is chromatographed over silica gel, eluting with a gradient of 0-10% (2 N ammonia/methanol) in chloroform. The product-containing fractions are combined and concentrated in vacuo to give the title product (8.98 g, quantitative) as an off-white solid.

reactant | Boc-D-valine | 23 mmol, 5.0 g | C(=O)(OC(C)(C)C)N[C@H](C(C)C)C(=O)O | C10H19NO4
reactant | HOBt | 25.3 mmol, 3.42 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 25.3 mmol, 4.85 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 4-(1-methylpiperidin-4-yl)piperazine | 23 mmol, 4.2 g | CN1CCC(CC1)N1CCNCC1 | C10H21N3
solvent | dichloromethane | 230 mL | ClCCl | CH2Cl2
product | 1-(Boc-D-valinyl)-4-(1-methylpiperidin-4-yl)piperazine | 8.98 g | C(=O)(OC(C)(C)C)N[C@H](C(C)C)C(=O)N1CCN(CC1)C1CCN(CC1)C | C20H38N4O3
